US07375093B2
Preparation of (3,5-dichloro-phenyl)-(1-nitro-cyclohexyl)-methanol (XIV)
25% sodium methoxide solution (24.9 mmol, 5.7 mL) was diluted with methanol (40 mL), cooled in an ice bath, and nitrocyclohexane was added dropwise over 10 min. The mixture was stirred for 30 min, cooled in an ice bath, and solid 3,5-dichlorobenzaldehyde was added. The mixture was stirred over the weekend, recooled in an ice bath, and treated with 2 mL of glacial acetic acid. The mixture was poured into water (125 mL) and extracted with ether (2×75 mL). The combined ether extracts were washed with water (100 mL) and dried over MgSO4. Removal of the solvent left crude (3,5-dichloro-phenyl)-(1-nitro-cyclohexyl)-methanol (8.93 g) as a yellow oil. Flash chromatography on silica gel, eluting with a 0-100% ether in hexanes gradient provided product of increased purity (ca. 70%). 1H NMR (500 MHz, CDCl3) δ(ppm): 7.35 (s, 1H), 7.19 (s, 2H), 4.90 (s, 1H), 0.9-1.8 (m, 10H).

reactant | sodium methoxide | 24.9 mmol, 5.7 mL | C[O-].[Na+]
reactant | nitrocyclohexane | [N+](=O)([O-])C1CCCCC1 | C6H11NO2
reactant | 3,5-dichlorobenzaldehyde | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 125 mL | O | H2O
product | (3,5-dichloro-phenyl)-(1-nitro-cyclohexyl)-methanol | ClC=1C=C(C=C(C1)Cl)C(O)C1(CCCCC1)[N+](=O)[O-] | C13H15Cl2NO3
